US05281593
iii) 3-[2(E)-(Quinolin-2-yl)ethenyl]benzyl chloride
Solid N-chlorosuccinimide (0.76 g, 5.72 mmol) was added in portions over 5 minutes to a stirred solution of 3-[2(E)-(quinolin-2-yl)ethenyl]benzyl alcohol (1.14 g, 4.58 mmol) and triphenylphosphine (1.50 g, 5.72 mmol) in dichloromethane (100 ml) at 0°-5° C. The mixture was stirred for a further 2 hours at 0°-5° C. then evaporated and the residue was chromatographed on silica in ethyl acetate-hexane (1:3).

reactant | N-chlorosuccinimide | 5.72 mmol, 0.76 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-[2(E)-(quinolin-2-yl)ethenyl]benzyl alcohol | 4.58 mmol, 1.14 g | N1=C(C=CC2=CC=CC=C12)/C=C/C=1C=C(CO)C=CC1 | C18H15NO
reactant | triphenylphosphine | 5.72 mmol, 1.50 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-[2(E)-(Quinolin-2-yl)ethenyl]benzyl chloride | N1=C(C=CC2=CC=CC=C12)/C=C/C=1C=C(CCl)C=CC1 | C18H14ClN
